US08629271B2
a) Methyl 2-isopropyl-5-methylthiazole-4-carboxylate
A mixture of methyl 3-bromo-2-oxobutanoate (4.6 g) and 2-methylpropanethioamide (2.5 g) in THF (100 mL) was heated at reflux for 18 hours. The solvent was evaporated under reduced pressure. The residue was partitioned between ethyl acetate and saturated sodium bicarbonate solution and the organic layer was dried over sodium sulphate, filtered and the solvent evaporated under reduced pressure. The residue was purified by flash silica chromatography using 17% ethyl acetate in isohexane as solvent. Pure fractions were evaporated to dryness to afford the subtitled compound. Yield 1.7 g.

reactant | methyl 3-bromo-2-oxobutanoate | 4.6 g | BrC(C(C(=O)OC)=O)C | C5H7BrO3
reactant | 2-methylpropanethioamide | 2.5 g | CC(C(N)=S)C | C4H9NS
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Methyl 2-isopropyl-5-methylthiazole-4-carboxylate | C(C)(C)C=1SC(=C(N1)C(=O)OC)C | C9H13NO2S
